### PR TITLE
[Merged by Bors] - feat(Algebra/Order/BigOperators/Group/Finset): generalise exists_one_lt_of_prod_one_of_exists_ne_one

### PR DESCRIPTION
**Pull request by b-mehta**
and add its dual. I couldn't get to_dual to generate the dual, I presume because the rest of this file hasn't been to_dual'd yet. It's probably easier to do that in its own PR.

The generalisation here is that it uses weaker typeclass assumptions now - MulLeftMono rather than IsOrderedCancelMonoid, ie it no longer requires cancellativity.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/BigOperators/Group/Finset.lean [hunk 1]
```diff
@@ -675,6 +675,20 @@ theorem exists_lt_of_prod_lt [MulLeftMono M] (Hlt : ∏ i ∈ s, f i < ∏ i ∈
...
+  by_contra! h
+  have : ¬ ∃ x ∈ s, f x < 1 := by simp [← prod_lt_one_iff_of_le_one h, h₁]
+  grind
+
+@[to_additive exists_neg_of_sum_zero_of_exists_nonzero]
+theorem exists_lt_one_of_prod_one_of_exists_ne_one [MulLeftMono M] (f : ι → M)
+    (h₁ : ∏ i ∈ s, f i = 1) (h₂ : ∃ i ∈ s, f i ≠ 1) : ∃ i ∈ s, f i < 1 := by
+  by_contra! h
+  have : ¬ ∃ x ∈ s, 1 < f x := by simp [← one_lt_prod_iff_of_one_le h, h₁]
+  grind
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Order/BigOperators/Group/Finset.lean]: Until a `to_dual` PR you could do
```suggestion
    (h₁ : ∏ i ∈ s, f i = 1) (h₂ : ∃ i ∈ s, f i ≠ 1) : ∃ i ∈ s, f i < 1 :=
  exists_one_lt_of_prod_one_of_exists_ne_one (M := Mᵒᵈ) f h₁ h₂
```
which also helps notice these are duals when `to_dual`izing

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by adomani** [comment]
Thanks!

bors merge
